* D:\Repos\fonte_bancada_stm32\hardware\Draft2.asc
V2 N002 0 SINE(0 311 60) Rser=0.0001
L1 N002 0 900µ
L2 18Vac N005 3.35µ
D1 0 18Vac D
D2 18Vac N003 D
D4 N005 N003 D
D3 0 N005 D
C4 N003 0 2200µ V=25
Q1 N003 N001 12Vdc 0 2N3055
R1 N004 N003 55
D5 0 N004 UMZ18K
C1 N004 0 100µ V=25
R2 N001 N004 0.0001
R3 0 N001 140
C2 N001 0 10µ V=25
C3 12Vdc 0 220µ V=25
C5 12Vdc 0 100n
XU2 N006 Vout 12Vdc LT317A
R7 Vout N006 150
R8 Vout 0 10k
C10 Vout 0 1µ V=16
C6 12Vdc 0 0.1µ V=16
V1 N009 0 PULSE(0 3.3 0 .01m .01m 0u 1000u 1000)
R4 N010 N009 100k
C7 N010 0 1µ
XU1 N010 N007 12Vdc N013 N008 TL07XH_TL08XH
V3 N011 0 PULSE(0 3.3 0 .01m .01m 500u 1000u 1000)
C8 N011 N012 100µ V=16
D6 N012 0 1N4148
D7 N013 N012 1N4148
C9 0 N013 100µ V=16
R5 N008 N007 2k
R6 N007 0 11k
V4 N006 0 -1.25
.model D D
.lib C:\Users\liwka\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\liwka\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
K L1 L2 1.
.lib D:\Repos\fonte_bancada_stm32\hardware\SpiceModel_LM358.mod
.tran 500m
.include D:\Users\liwka\Downloads\slom513a\tl07xh_tl08xh.lib
.lib LTC.lib
.backanno
.end
